US06664238B1
2,2-Dimethyl-3-(4-pyridin-3-yl-imidazol-1-yl)-propanol
To a solution of 2,2-Dimethyl-3-(4-pyridin-3-yl-imidazol-1-yl)-propyl acetate (20 mg) in methanol was added saturated solution of K2CO3 in metanol (1.5 mL) and the resulting solution was stirred at room temperature for 1 hour. MeOH was evaporated in vacuo and water was added followed by CH2Cl2. The aqueous layer was extracted with CHCl3, the combined organic layers were washed with brine, dired over Na2SO4 and evaporated in vacuo to afford the title compound as a slightly yellow oil.

reactant | 2,2-Dimethyl-3-(4-pyridin-3-yl-imidazol-1-yl)-propyl acetate | 20 mg | C(C)(=O)OCC(CN1C=NC(=C1)C=1C=NC=CC1)(C)C | C15H19N3O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | CO | CH4O
solvent | metanol | 1.5 mL | CO | CH4O
product | 2,2-Dimethyl-3-(4-pyridin-3-yl-imidazol-1-yl)-propanol | CC(CO)(CN1C=NC(=C1)C=1C=NC=CC1)C | C13H17N3O
